US04755298
ClCH2CH(OH)CH2NHC(CH2OH)3
12.1 Grams (0.1 mol) of tris(hydroxymethyl)methylamine (from Aldrich Chemical Co.) is dissolved in 125 ml of water. To this solution is slowly added about 0.12 mole (a 20% excess) of epichlorhydrin (Aldrich Chemical). After stirring for one hour at ambient temperature, the solution is extracted twice using 50 ml of methylene chloride to remove the unreacted epichlorhydrin. The aqueous phase containing the reactive Cl-compound is used immediately.

reactant | tris(hydroxymethyl)methylamine | 0.1 mol | OCC(N)(CO)CO | C4H11NO3
reactant | epichlorhydrin | C(Cl)C1CO1 | C3H5ClO
solvent | water | 125 ml | O | H2O
product | ClCH2CH(OH)CH2NHC(CH2OH)3 | ClCC(O)CNC(CO)(CO)CO | C7H16ClNO4
